US07491735B2
Using general procedure A with 3,4-(methylenedioxy)aniline (250 mg, 1.8 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (329 mg, 2.0 mmol) followed by general procedure J gave a green oil, which was subsequently treated with a solution of NaCN (175 mg) in H2O (5 mL) and MeOH (5 mL) to afford [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-benzo[1,3]dioxol-5-yl-amine as a white solid (281 mg, 68% over 2 steps) after work-up and purification.

reactant | 3,4-(methylenedioxy)aniline | 1.8 mmol, 250 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 2.0 mmol, 329 mg | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
reactant | NaCN | 175 mg | [C-]#N.[Na+]
solvent | H2O | 5 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-benzo[1,3]dioxol-5-yl-amine | NCC[C@@H](C)N1CCC(CC1)NC1=CC2=C(OCO2)C=C1 | C16H25N3O2
